US06265415B1
Synthesis of 8-amino-3-carboethoxy-2,6-dimethylimidazo[1,2-a]pyridine
A stirred mixture of 2,3-diamino-5-methyl-pyridine (4.0 g, 32.5 mmol) and (5.9 g, 36.0 mmol) of ethyl-chloroacetoacetate in 75 ml abs. ethanol was refluxed over night. The ethanol was evaporated under reduced pressure. The residue was dissolved in 2 M HCl and washed 3 times with diethyl ether, pH was adjusted to 9 and extracted 3 times with dichloromethane. The organic layer was dried over anhydrous sodium sulfate and evaporated. The residue was purified by column chromatography on silica gel with dichloromethane:methanol 95:5 as eluent to give the title product 2.0 g (28%).

reactant | 2,3-diamino-5-methyl-pyridine | 32.5 mmol, 4.0 g | NC1=NC=C(C=C1N)C | C6H9N3
reactant | ethyl-chloroacetoacetate | 36.0 mmol, 5.9 g | C(C)OC(CC(=O)CCl)=O | C6H9ClO3
solvent | ethanol | C(C)O | C2H6O
product | 8-amino-3-carboethoxy-2,6-dimethylimidazo[1,2-a]pyridine | 2.0 g, 28% | NC=1C=2N(C=C(C1)C)C(=C(N2)C)C(=O)OCC | C12H15N3O2
